US04948794
8-Bromo-4-cyclohexylbenzo[f]quinoxaline-2,3(1H,4H)-dione (Compound 37)
A solution of 6-bromo-2-methoxy-1-nitronaphthalene (10.0 g, 35.6 mmol) and 8 ml of cyclohexylamine in 50 ml of dry N,N-dimethylformamide was heated with stirring at 120° C. for 17 h. The mixture was evaporated to dryness and the residue was triturated with 50 ml of ethanol at 0° C. The solid was isolated by filtration and washed with light petroleum to give 10.4 g (84%) of 6-bromo-2-cyclohexylamino-1-nitronaphthalene. The crude product was suspended in 150 ml of 96% ethanol and hydrogenated at room temperature and 40 psi over Ni/Raney. After the hydrogen uptake was completed, the reaction mixture was filtered into 50 ml of 4M hydrochloric acid and concentrated to dryness. Crude 1-amino-6-bromo-2-cyclohexylaminonaphthalene hydrochloride (9.8 g, 27.6 mmol) was taken up in 80 ml of dry tetrahydrofuran. Dry triethylamine (7.7 ml, 55.3 mmol) was added, followed by the dropwise addition of ethyloxalyl chloride (3.1 ml, 27.7 mmol) with stirring at 0° C. The mixture was stirred over night at room temperature and finally at reflux for 4 h. The cooled mixture was filtered and the solid was washed with water and ethanol affording 5.2 g (51%) of the title compound. M.p. 347.0° C. (N,N-dimethylformamide, DSC); IR (KBr): 1700 cm-1 ; 1H-NMR (DMSO-d6) 1.13-2.93 (m, 10H, 5CH2), 4.33-4.90 (m, 1H, NCH), 7.47-8.67 (m, 5H, ArH), 12.1 (broad s, 1H, NH); MS (m/z): 372 (M+, 17%).

reactant | hydrogen | [H][H] | H2
reactant | 1-amino-6-bromo-2-cyclohexylaminonaphthalene hydrochloride | 27.6 mmol, 9.8 g | Cl.NC1=C(C=CC2=CC(=CC=C12)Br)NC1CCCCC1
reactant | triethylamine | 55.3 mmol, 7.7 ml | C(C)N(CC)CC | C6H15N
reactant | ethyloxalyl chloride | 27.7 mmol, 3.1 ml | CCC(=O)C(=O)Cl | C4H5ClO2
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
catalyst | Ni | [Ni] | Ni
product | 8-Bromo-4-cyclohexylbenzo[f]quinoxaline-2,3(1H,4H)-dione | BrC1=CC2=C(C=3NC(C(N(C3C=C2)C2CCCCC2)=O)=O)C=C1 | C18H17BrN2O2
